US09353096B2
(R)-2-(6-Methoxy-pyridin-3-ylmethyl)-morpholine-4-carboxylic acid tert-butyl ester (194 mg, 0.63 mmol) was dissolved in dichloromethane (2 mL), cooled to 0° C. and treated with TFA (1 mL). The reaction was stirred at room temperature for 2 h. The reaction mixture was concentrated. The residue was taken up in dichloromethane and extracted with 1M NaOH. The mixture was extracted 3 times with dichloromethane. The combined organic phase was washed with brine, dried over MgSO4 and concentrated to afford (R)-2-(6-methoxy-pyridin-3-ylmethyl)-morpholine (130 mg, 99%) as a light yellow oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.52-2.63 (m, 2H) 2.65-2.75 (m, 1H) 2.75-2.81 (m, 1H) 2.81-2.91 (m, 2H) 3.49-3.63 (m, 2H) 3.85 (ddd, J=11.28, 3.22, 1.34 Hz, 1H) 3.91 (s, 3H) 6.68 (d, J=8.33 Hz, 1H) 7.44 (dd, J=8.60, 2.42 Hz, 1H) 7.99 (d, J=2.15 Hz, 1H).

reactant | (R)-2-(6-Methoxy-pyridin-3-ylmethyl)-morpholine-4-carboxylic acid tert-butyl ester | 0.63 mmol, 194 mg | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)CC=1C=NC(=CC1)OC | C16H24N2O4
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (R)-2-(6-methoxy-pyridin-3-ylmethyl)-morpholine | 130 mg, 99% | COC1=CC=C(C=N1)C[C@@H]1CNCCO1 | C11H16N2O2
